US05981572
N-[3-(5,7-Dichloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide
N-Chlorosuccinimide (173 mg) was added to a solution of N-[3-(5-chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide (0.2 g) in glacial acetic acid (5 ml) at room temperature under nitrogen and the mixture stirred for 64 h. The solution was adusted to pH 9 with sodium carbonate (2N; 10 ml) and extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with brine (20 ml) and dried (MgSO4). The solvent was evaporated and the residue purified by HPLC, eluting with 50% acetonitrile/water+0.1% TFA gave the title compound as a colourless gum (97 mg)

reactant | N-Chlorosuccinimide | 173 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-[3-(5-chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | 0.2 g | ClC=1C=CC2=C(CCO2)C1CCCNC(C)=O | C13H16ClNO2
reactant | sodium carbonate | 2N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-[3-(5,7-Dichloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | 97 mg | ClC=1C=C(C2=C(CCO2)C1CCCNC(C)=O)Cl | C13H15Cl2NO2
